US08791107B2
PREPARATION x80: (S)-tert-butyl 2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetate
Potassium tert-butoxide in tert-BuOH (1M, 2.65 mL, 2.65 mmol) was added to a solution of (S)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x4, 500 mg, 2.206 mmol) in DMF (5 mL) at 0° C. The resultant mixture was stirred at room temperature for 30 minutes. tert-Butyl 2-bromoacetate (0.421 mL, 2.87 mmol) was added to the reaction mixture at 0° C. The resultant mixture was stirred at room temperature for 1 hour. After addition of water, the resultant mixture was extracted with EtOAc. The extract was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified via flash column chromatography (gradient 20-80% EtOAc/hexane) to afford the title compound as an off-white solid (415 mg, 55.2%). 1H NMR (400 MHz, CDCl3) δ ppm 1.46 (s, 9H), 3.00-3.10 (m, 1H), 3.15-3.28 (m, 2H), 3.37 (dd, J=11.37, 8.84 Hz, 1H), 3.52-3.62 (m, 1H), 3.64-3.75 (m, 2H), 3.86-4.06 (m, 3H), 4.52 (dd, J=13.77, 1.89 Hz, 1H), 7.22 (s, 1H); ESI-MS m/z [M+H]+ calc'd for C15H21ClN4O3, 341.14. found 341.2.

reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tert-BuOH | 2.65 mmol, 1M, 2.65 mL | C(C)(C)(C)O | C4H10O
reactant | (S)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 2.206 mmol, 500 mg | ClC1=NC=2N3[C@@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | tert-Butyl 2-bromoacetate | 2.87 mmol, 0.421 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-tert-butyl 2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)acetate | 415 mg, 55.2% | ClC1=NC=2N3[C@@H](CN(C2C=N1)CC(=O)OC(C)(C)C)COCC3 | C15H21ClN4O3
